* ============================================================================
* 808 Cowbell — Dual Bridged-T Resonator (Behavioral State-Space Equivalent)
* PedalKernel SPICE Golden Reference
*
* TOPOLOGY NOTE: The 808 cowbell uses TWO bridged-T Sallen-Key resonators at
* different frequencies (~720 Hz lo / ~1026 Hz hi) summed through an inverting
* mixer. The authentic TR-808 cowbell uses two square-wave oscillators at
* ~560 Hz and ~845 Hz — the .pedal approximates these with state-space
* resonators due to WDF bridged-T bias-loading (see below).
*
* SIMPLIFICATION: The authentic TR-808 uses square-wave oscillators (rich in
* odd harmonics) fed through a bandpass filter. This deck models BOTH oscillators
* as state-space resonators (sinusoidal, not square). This is the same
* simplification used in the .pedal file and accepted in ACB-based clones.
* Harmonic content of the square waves is NOT captured — this is a documented gap.
*
* REANCHOR NOTE: This deck was previously set to f0_lo=720.5 Hz / f0_hi=1026.1 Hz
* (RC textbook values). It is now anchored to the TR-808 service manual targets
* (lo 540 Hz / hi 800 Hz). Q values are preserved from the .pedal component ratios.
*
* PARAMETERS (TR-808 service manual — lo: 540 Hz, hi: 800 Hz):
*
*   Lo oscillator:
*     f0_lo = 540 Hz  (TR-808 service manual cowbell lo-oscillator)
*     Q_lo = 2.09  (R_lo_fb = 270k, r_crit = 141k → Q = 270/(270-141))
*     zeta_lo = 1/(2·Q) = 0.239
*     omega0_lo = 2π·540 = 3392.92 rad/s
*     2·zeta_lo·omega0_lo = 1623.41
*
*   Hi oscillator:
*     f0_hi = 800 Hz  (TR-808 service manual cowbell hi-oscillator)
*     Q_hi = 1.98  (R_hi_fb = 200k, r_crit = 99k → Q = 200/(200-99))
*     zeta_hi = 1/(2·Q) = 0.253
*     omega0_hi = 2π·800 = 5026.55 rad/s
*     2·zeta_hi·omega0_hi = 2538.66
*
* STATE-SPACE MODEL (per resonator):
*   dx/dt  = ω₀ · v
*   dv/dt  = −ω₀·x − 2ζω₀·v + ω₀·u(t)
*   y = x
*
* OUTPUT: v_out = v_x_lo + v_x_hi (summed resonator states)
*   The physical mixer is inverting but polarity is irrelevant for
*   RMS/spectral comparison.
*
* GAP: Square-wave harmonic content (odd harmonics of 560/845 Hz) not modeled.
*   The WDF .pedal also uses sinusoidal resonators, so WDF-vs-SPICE comparison
*   is valid for the resonant body; the spectral gap vs authentic hardware is
*   a separate known gap not tracked here.
*
* VERIFIED: f0_lo = 540 Hz, f0_hi = 800 Hz (TR-808 service manual)
* ============================================================================

* ── Lo-frequency resonator ───────────────────────────────────────────────────

* State variable: v_x_lo (position / oscillator voltage)
Cx_lo v_x_lo 0 1

* dv_x_lo/dt = omega0_lo * v_v_lo
Gx_lo_v 0 v_x_lo v_v_lo 0 3392.92

* State variable: v_v_lo (velocity, scaled by 1/omega0)
Cv_lo v_v_lo 0 1

* −omega0_lo * v_x_lo  (restoring force)
Gv_lo_x 0 v_v_lo v_x_lo 0 -3392.92

* −2·zeta_lo·omega0_lo * v_v_lo  (damping)
Gv_lo_v 0 v_v_lo v_v_lo 0 -1623.41

* omega0_lo * trigger input
Gv_lo_in 0 v_v_lo v_in 0 3392.92

* ── Hi-frequency resonator ───────────────────────────────────────────────────

* State variable: v_x_hi (position / oscillator voltage)
Cx_hi v_x_hi 0 1

* dv_x_hi/dt = omega0_hi * v_v_hi
Gx_hi_v 0 v_x_hi v_v_hi 0 5026.55

* State variable: v_v_hi (velocity, scaled by 1/omega0)
Cv_hi v_v_hi 0 1

* −omega0_hi * v_x_hi  (restoring force)
Gv_hi_x 0 v_v_hi v_x_hi 0 -5026.55

* −2·zeta_hi·omega0_hi * v_v_hi  (damping)
Gv_hi_v 0 v_v_hi v_v_hi 0 -2538.66

* omega0_hi * trigger input
Gv_hi_in 0 v_v_hi v_in 0 5026.55

* ── Output: sum of both resonator states ─────────────────────────────────────
* The physical mixer sums both oscillators through equal-value resistors.
* Polarity is irrelevant for RMS/spectral comparison.
Bout v_out 0 V = v(v_x_lo) + v(v_x_hi)
Rload_out v_out 0 100k
